US08530663B2
3-Bromofuran-2-carboxylic acid methyl ester (2.0 g, 9.8 mmol, 1.0 eq.), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester (3.1 g, 10 mmol, 1.0 eq.), THF (100 mL) and Na2CO3 (20 mL, 40 mmol, 4.0 eq.) were combined. The mixture was degassed and purged with nitrogen (3×). PdCl2(PPh3)2 (0.2 g, 0.3 mmol, 0.03 eq.) was added, and the mixture was again degassed and purged with nitrogen (3×), then heated at 80° C. overnight. The mixture was then cooled and the layers were separated. The THF layer was diluted with EtOAc (100 mL), washed with saturated aqueous NaCl (50 mL) and dried over Na2SO4. The material was filtered and applied onto a silica gel column and purified by chromatography with PE/EtOAc (50:1 to 10:1) to yield 4-(2-methoxycarbonylfuran-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester (2.1 g) as a white solid.

reactant | 3-Bromofuran-2-carboxylic acid methyl ester | 9.8 mmol, 2.0 g, 1.0 eq. | COC(=O)C=1OC=CC1Br | C6H5BrO3
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 10 mmol, 3.1 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | Na2CO3 | 40 mmol, 20 mL, 4.0 eq. | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | PdCl2(PPh3)2 | 0.3 mmol, 0.2 g, 0.03 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(2-methoxycarbonylfuran-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 2.1 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=C(OC=C1)C(=O)OC | C16H21NO5
